US06344470B1
4-(2-Chloro-4-methoxyphenyl)-5methyl-2[N-(5-acetamido-2-methoxyphenyl)-N-propylamino]thiazole
At 0° C., under an inert atmosphere, 1 g of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-amino-2-methoxyphenyl)-N-propylamino]thiazole is dissolved in 3.5 ml of dichloromethane. 0.4 ml of triethylamine is added followed by 0.14 ml of acetyl bromide. After 1 hour at room temperature, the reaction mixture is diluted with dichloromethane. The organic phase is washed with water and then dried over sodium sulphate. The evaporation residue is purified on silica gel; eluent cyclohexane/ethyl acetate 1/1.

reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-amino-2-methoxyphenyl)-N-propylamino]thiazole | 1 g | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)N)OC | C21H24ClN3O2S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl bromide | 0.14 ml | C(C)(=O)Br | C2H3BrO
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 4-(2-Chloro-4-methoxyphenyl)-5methyl-2[N-(5-acetamido-2-methoxyphenyl)-N-propylamino]thiazole | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)NC(C)=O)OC | C23H26ClN3O3S
